US05476976
In a 2-liter flange flask fitted with a distillation bridge and impeller stirrer, 348.6 g (6.0 mol) of potassium fluoride, 71.1 g (0.1 mol) of trimethyl (ethoxypolyoxypropyl)ammonium chloride and 23.5 g (0.21 mol) of tetramethylammonium chloride were introduced at 120° C. into the melt of 939 g (6.0 mol) of 2-chloronitrobenzene. Subsequently, 100 g (0.38 mol) of xylene were added and the reaction suspension was heated to 150° C., the xylene was removed under reduced pressure and the mixture was stirred for 21 hours at this temperature. Subsequently, the reaction suspension was cooled to 70° C. and filtered with suction. The salts separated off were washed twice with a total of 360 g of xylene and the combined organic phases were fractionated. 356 g (63% of theory) of 2-fluoronitrobenzene were isolated. Amount of 2-fluoronitrobenzene formed, according to GC analysis:

reactant | potassium fluoride | 6.0 mol, 348.6 g | [F-].[K+]
reactant | 2-chloronitrobenzene | 6.0 mol, 939 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | xylene | 0.38 mol, 100 g | C=1(C(=CC=CC1)C)C | C8H10
catalyst | tetramethylammonium chloride | 0.21 mol, 23.5 g | [Cl-].C[N+](C)(C)C
product | 2-fluoronitrobenzene | 356 g, 63% | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
